US04472305
Condensation of ZPheOH (7.5 g.) and HDPheOMe (5.4 g.) by the mixed anhydride method using isobutyl chloroformate gave ZPhe-DPheOMe in 66% yield. Debenzyloxycarbonylation of ZPhe-DPheOMe (6.9 g.) by hydrogenation with palladium catalyst gave HPhe-DPheOMe in 100% yield. Condensation of BocProOH (3.23 g.) and HPhe-DPheOMe (4.9 g.) by the mixed anhydride method using isobutyl chloroformate gave BocPro-Phe-DPheOMe in 70% yield. Hydrazinolysis of BocPro-Phe-DPheOMe (5.0 g.) gave BocPro-Phe-DPheNHNH2 in 84% yield.

reactant | ZPheOH | 7.5 g | N([C@@H](CC1=CC=CC=C1)C(=O)O)C(=O)OCC1=CC=CC=C1 | C17H17NO4
reactant | HDPheOMe | 5.4 g | N[C@H](CC1=CC=CC=C1)C(=O)OC | C10H13NO2
reactant | isobutyl chloroformate | ClC(=O)OCC(C)C | C5H9ClO2
product | ZPhe-DPheOMe | 66% yield | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@H](CC1=CC=CC=C1)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C27H28N2O5
